US07307163B2
The mixture of (5R)-5-(chloromethyl)-3-[3-fluoro-4-(4-morpholinyl)phenyl]-2-oxazolidinone (60 g), potassium phthalimide (40 g) and Dimethyl formamide (400 ml) is heated for 5 hours at reflux temperature. The reaction mixture is cooled to ambient temperature, poured in to 2 L water and filtered the solid to give 50 gm (S)-N-[[3-[3-Fluoro-4-[4-morpholinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]phthalimide.

reactant | (5R)-5-(chloromethyl)-3-[3-fluoro-4-(4-morpholinyl)phenyl]-2-oxazolidinone | 60 g | ClC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)N1CCOCC1)F | C14H16ClFN2O3
reactant | potassium phthalimide | 40 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | Dimethyl formamide | 400 ml | CN(C=O)C | C3H7NO
solvent | water | 2 L | O | H2O
product | (S)-N-[[3-[3-Fluoro-4-[4-morpholinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]phthalimide | 50 gm | FC=1C=C(C=CC1N1CCOCC1)N1C(O[C@H](C1)CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C22H20FN3O5
